US07355069B2
a) N-(3-ethoxypropyl)-N-(4-isopropylbenzyl)amine
p-iso-Propylbenzaldehyde (1.007 g, 6.798 mmol) was dissolved in methanol (5 ml). Trimethyl orthoformate (5 ml) was added. 3-Ethoxypropylamine (681 mg, 6.6 mmol) was then added and followed by acetic acid (0.2 ml). After standing at room temperature overnight, DCM (5 ml) was added and followed by borohydride on polymer support (5.28 g, 13.2 mmol). The mixture was shaken at room temperature for 4 days and then filtered. The filtrate was evaporated. The residue was dissolved in acetonitrile, then divided into two portions and loaded on 2 columns (ISOLUTE® PRS, 10 g/70 ml, wetted with acetonitrile). It was eluted with acetonitrile, then methanol and then methanol (NH3 sat.). The product fractions were combined and evaporated. Oil product 1.283 g was obtained, yield 83%.

reactant | p-iso-Propylbenzaldehyde | 6.798 mmol, 1.007 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | Trimethyl orthoformate | 5 ml | C(OC)(OC)OC | C4H10O3
reactant | 3-Ethoxypropylamine | 6.6 mmol, 681 mg | C(C)OCCCN | C5H13NO
reactant | borohydride | [BH4-]
solvent | methanol | 5 ml | CO | CH4O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | N-(3-ethoxypropyl)-N-(4-isopropylbenzyl)amine | 1.283 g, yield 83% | C(C)OCCCNCC1=CC=C(C=C1)C(C)C | C15H25NO
